US06953802B2
A solution of (R)-3-amino-3-(4-(tert-butyldimethylsiloxy)pheny)-propanoic acid ethyl ester (1.0 eq), 2,4-dichloro-5-bromopyrimidine (1.2 eq) and DIEA (1.2 eq) in DMF was stirred at 50° C. for 2 hr, and then the DMF was evaporated. The residue was dissolved in EtOAc, and the resulting solution was washed successively with 0.1 M H3PO4, sat. NaHCO3 and sat. NaCl. The EtOAc extracts were treated with MgSO4, filtered, and evaporated to give (R)-3-(5-bromo-2-chloropyrimidin-4-ylamino)-3-(4-(tert-butyldimethylsiloxy)phenyl)propanoic acid ethyl ester.

reactant | (R)-3-amino-3-(4-(tert-butyldimethylsiloxy)pheny)-propanoic acid ethyl ester | 1.0 eq | C(C)OC(C[C@H](C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)N)=O | C17H29NO3Si
reactant | 2,4-dichloro-5-bromopyrimidine | 1.2 eq | ClC1=NC=C(C(=N1)Cl)Br | C4HBrCl2N2
reactant | DIEA | 1.2 eq | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | CN(C)C=O | C3H7NO
product | (R)-3-(5-bromo-2-chloropyrimidin-4-ylamino)-3-(4-(tert-butyldimethylsiloxy)phenyl)propanoic acid ethyl ester | C(C)OC(C[C@H](C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C)NC1=NC(=NC=C1Br)Cl)=O | C21H29BrClN3O3Si
